US08735384B2
A mixture of 2-dicyclohexylphosphino-2′,4′,6′-triisopropylbiphenyl (47.8 mg, 0.10 mmol), (2-bromo-3-methylphenyl)(pyrrolidin-1-yl)methanone (323 mg, 1.2 mmol), N-(4-methoxybenzyl)-3-morpholino-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)quinolin-2-amine (477 mg, 1.0 mmol), Pd2(dba)3 (45.9 mg, 0.050 mmol), K3PO4 (0.25 mL, 3.0 mmol), and 1,4-dioxane (7 mL)/water (3.50 mL) was heated in a microwave at 140° C. for 12 min. The reaction mixture was filtered then concentrated in vacuo. The crude product was purified by silica flash chromatography (0-10% MeOH/DCM) to give (2-(2-(4-methoxybenzylamino)-3-morpholinoquinolin-6-yl)-3-methylphenyl)(pyrrolidin-1-yl)methanone as an orange oil.

reactant | 2-dicyclohexylphosphino-2′,4′,6′-triisopropylbiphenyl | 0.10 mmol, 47.8 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C1CCCCC1 | C33H49P
reactant | (2-bromo-3-methylphenyl)(pyrrolidin-1-yl)methanone | 1.2 mmol, 323 mg | BrC1=C(C=CC=C1C)C(=O)N1CCCC1 | C12H14BrNO
reactant | N-(4-methoxybenzyl)-3-morpholino-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)quinolin-2-amine | 1.0 mmol, 477 mg | COC1=CC=C(CNC2=NC3=CC=C(C=C3C=C2N2CCOCC2)B2OC(C(O2)(C)C)(C)C)C=C1 | C27H34BN3O4
reactant | K3PO4 | 3.0 mmol, 0.25 mL | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
catalyst | Pd2(dba)3 | 0.050 mmol, 45.9 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | water | 3.50 mL | O | H2O
solvent | 1,4-dioxane | 7 mL | O1CCOCC1 | C4H8O2
product | (2-(2-(4-methoxybenzylamino)-3-morpholinoquinolin-6-yl)-3-methylphenyl)(pyrrolidin-1-yl)methanone | COC1=CC=C(CNC2=NC3=CC=C(C=C3C=C2N2CCOCC2)C2=C(C=CC=C2C)C(=O)N2CCCC2)C=C1 | C33H36N4O3
